US06608203B2
1-(4-Hydroxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinolin-6-ol
To a stirred solution of 6-methoxy-1-(4-methoxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinoline (0.075 g, 0.217 mmol, 1.0 eq.) in CH2Cl2 (3 ml) cooled to −78° C. under an atmosphere of N2 was added BBr3 as a 1.0 M solution in CH2Cl2 (0.65 ml, 0.65 mmol, 3.0 eq.). The reaction was stirred overnight, slowly allowing the reaction mixture to warm to rt. The reaction was quenched with MeOH (2 ml) and stirring was continued for 1 hour. The mixture was diluted with EtOAc (20 ml), water (2 ml), and sat. NaHCO3 (2 ml, until the pH of the aqueous layer was approximately 8). The layers were separated and the aqueous layer diluted with water (10 ml), then extracted with EtOAc (2×20 ml) and CH2Cl2 (2×20 ml). The combined organics were dried over MgSO4, filtered, and concentrated in vacuo. The residue was subjected to flash chromatography (SiO2, hexanes:EtOAc 3:2) to give the desired compound (0.053 g, 0.167 mmol, 77% yield).

reactant | 6-methoxy-1-(4-methoxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinoline | 0.217 mmol, 0.075 g, 1.0 eq. | COC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C23H23NO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.65 mmol, 0.65 ml, 3.0 eq. | C(Cl)Cl | CH2Cl2
product | 1-(4-Hydroxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinolin-6-ol | 0.167 mmol, 0.053 g, 77% yield | OC1=CC=C(C=C1)C1N(CCC2=CC(=CC=C12)O)C1=CC=CC=C1 | C21H19NO2
